US07223776B2
2.b) tert-Butyl (RS)-piperidin-3-ylmethylcarbamate
20% Pd(OH)2 on carbon (1 g) was added to a solution of benzyl 3-(tert-butoxycarbonylamino-methyl)-piperidine-1-carbamate (5 g, 14.3 mmol) in EtOH (50 ml) and EtOAc (50 ml), and hydrogenation was carried out under a hydrogen atmosphere (1 bar). The reaction mixture was filtered and the filtrate was concentrated.

reactant | benzyl 3-(tert-butoxycarbonylamino-methyl)-piperidine-1-carbamate | 14.3 mmol, 5 g | C(C)(C)(C)OC(=O)NCC1CN(CCC1)NC(=O)OCC1=CC=CC=C1 | C19H29N3O4
solvent | EtOH | 50 ml | CCO | C2H6O
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
catalyst | Pd(OH)2 on carbon | 1 g | [OH-].[OH-].[Pd+2]
product | tert-Butyl (RS)-piperidin-3-ylmethylcarbamate | N1CC(CCC1)CNC(OC(C)(C)C)=O | C11H22N2O2
